US08258130B2
DIPEA (174 μL) is added to a mixture of 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (218 mg), HATU (380 mg) and 6-fluoro-2,3-dihydro-benzo[1,4]oxazin-4-ylamine (220 mg) in DMF (15 mL) and then heated at 800 C. overnight. The reaction mixture is concentrated in vacuo and the residue is purified by silica gel column chromatography eluting with 30% EtOAc in heptane to afford 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (6-fluoro-2,3-dihydro-1,4-benzoxazin-4-yl)-amide (81 mg). MS: 369 (M+H); 1H NMR (300 MHz, DMSO-D6): δ 11.05 (s, 1H), 9.35 (s, 2H), 8.32 (dd, 1H), 8.18 (dd, 1H), 7.65 (m, 1H), 7.5 (m, 1H), 6.8-6.7 (m, 2H), 6.52-6.45 (m, 1H), 4.36-4.33 (m, 2H), 3.65 (m, 2H). IC50=12 nM.

reactant | DIPEA | 174 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid | 218 mg | FC=1C=C(C=CC1)C1=NC=C(C=N1)C(=O)O | C11H7FN2O2
reactant | HATU | 380 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 6-fluoro-2,3-dihydro-benzo[1,4]oxazin-4-ylamine | 220 mg | FC=1C=CC2=C(N(CCO2)N)C1 | C8H9FN2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (6-fluoro-2,3-dihydro-1,4-benzoxazin-4-yl)-amide | 81 mg | FC=1C=CC2=C(N(CCO2)NC(=O)C=2C=NC(=NC2)C2=CC(=CC=C2)F)C1 | C19H14F2N4O2
